US04410537
To a stirred solution of 5-(2-formyl-3-methoxyphenoxy)pentanonitrile (2.33 g, 0.01 M) in dry tetrahydrofuran (28 ml) was added dropwise a solution of magnesium iodide (4.17 g, 0.015 M) in dry ether (55 ml). The mixture was then stirred under reflux (51/2 hr). The cooled mixture was poured into 10% hydrochloric acid (50 ml). The organic layer was separated and the aqueous phase extracted with ethyl acetate. The combined organic solutions were washed with water and extracted quickly with 2 N sodium hydroxide solution (1×25 ml). The separated aqueous phase was immediately acidified with concentrated hydrochloric acid with cooling and the solid produced filtered off and washed with water to give 5-(2-formyl-3-hydroxyphenoxy)pentanonitrile, m.p. 66°-67° C. from benzene/petrol.

reactant | 5-(2-formyl-3-methoxyphenoxy)pentanonitrile | 0.01 M, 2.33 g | C(=O)C1=C(OCCCCC#N)C=CC=C1OC | C13H15NO3
reactant | magnesium iodide | 0.015 M, 4.17 g | [I-].[Mg+2].[I-]
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | tetrahydrofuran | 28 ml | O1CCCC1 | C4H8O
solvent | ether | 55 ml | CCOCC | C4H10O
product | 5-(2-formyl-3-hydroxyphenoxy)pentanonitrile | C(=O)C1=C(OCCCCC#N)C=CC=C1O | C12H13NO3
